US05541317
2-Propionylthiopyridine
15.6 ml (1.2 equivalents) of propionyl chloride were slowly added at room temperature to a solution of 20 g of 2-pyridinethiol and 25.1 ml (1.2 equivalents) of triethylamine in 200 ml of anhydrous methylene chloride, and the resulting mixture was stirred for 1 hour. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was mixed with ethyl acetate. The organic solution thus obtained was washed twice with a dilute aqueous solution of sodium hydrogencarbonate and then with water. The organic layer was separated and then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was subjected to fractional distillation in vacuo, to give 27 g (yield 90%) of the title compound, boiling at 93° C./0.05 mmHg (6.7 Pa).

reactant | propionyl chloride | 15.6 ml, 1.2 equivalents | C(CC)(=O)Cl | C3H5ClO
reactant | 2-pyridinethiol | 20 g | N1=C(C=CC=C1)S | C5H5NS
reactant | triethylamine | 25.1 ml, 1.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Propionylthiopyridine | 27 g, yield 90% | C(CC)(=O)SC1=NC=CC=C1 | C8H9NOS
